US05234946
334 mg of 3-aminobenzaldehyde dimethyl acetal was dissolved in 10 ml of anhydrous benzene, and 212 mg of benzaldehyde and 2 g of molecular sieve 4A (a product of Nippon Chromato Kogyo Co., Ltd.) were added. The mixture was stirred at room temperature for 4 hours. The molecular sieve was removed by filtration, and the filtrate was evaporated under reduced pressure. The residue was dissolved in 20 ml of methanol, and 100 mg of sodium borohydride was added. The mixture was stirred for 2 hours. The reaction mixture was diluted with water, and extracted with ethyl ether. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was recrystallized from hexane to give 451 mg (yield 87.7%) of 3-benzylaminobenzaldehyde dimethyl acetal having a melting point of 55° to 56° C.

reactant | 3-aminobenzaldehyde dimethyl acetal | 334 mg | COC(C1=CC(=CC=C1)N)OC | C9H13NO2
reactant | benzaldehyde | 212 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-benzylaminobenzaldehyde dimethyl acetal | 451 mg, yield 87.7% | COC(C1=CC(=CC=C1)NCC1=CC=CC=C1)OC | C16H19NO2
